US06518257B1
(ii) Production of 1-(1H-imidazol-4-yl)-2-methyl-1-[3-(4-pyridyl)phenyl]-1-propanol
By the reaction in the same manner as in Example 4-(iii) using 2-methyl-1-[3-(4-pyridyl)phenyl]-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (1.08 g) and pyridine hydrochloride (419 mg), the colorless amorphous title compound (477 mg) was obtained.

reactant | 2-methyl-1-[3-(4-pyridyl)phenyl]-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 1.08 g | CC(C(O)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)C1=CC=NC=C1)C | C37H33N3O
reactant | pyridine hydrochloride | 419 mg | Cl.N1=CC=CC=C1
product | 1-(1H-imidazol-4-yl)-2-methyl-1-[3-(4-pyridyl)phenyl]-1-propanol | 477 mg | N1C=NC(=C1)C(C(C)C)(O)C1=CC(=CC=C1)C1=CC=NC=C1 | C18H19N3O
